US09260440B2
Methyl 4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate (183 mg, 0.75 mol) was dissolved in DMF (20 ml) and 2-chloro-N,N-dimethylethanamine hydrochloride (107 mg, 0.75 mmol), and K2CO3 (207 mg, 1.5 mmol) were subsequently added. The reaction was stirred at 50° C. until the starting material was disappeared. The reaction mixture was then diluted with CH2Cl2 (15 ml) and washed with water three times. The organic layer was dried with MgSO4. Evaporation of most of the solvent and the crude product was purified by chromatography column on silica gel (elution with CH2Cl2/MeOH/NH3.H2O) to provide 0.09 g of methyl 2-(2-(dimethylamino)ethyl)-4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate. MS (ESI) m/e [M+1]+ 316.

reactant | Methyl 4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate | 0.75 mol, 183 mg | O=C1CNCC=2NC=3C=CC=C(C3C21)C(=O)OC | C13H12N2O3
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 0.75 mmol, 107 mg | Cl.ClCCN(C)C
reactant | K2CO3 | 1.5 mmol, 207 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-(2-(dimethylamino)ethyl)-4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate | 0.09 g | CN(CCN1CC=2NC=3C=CC=C(C3C2C(C1)=O)C(=O)OC)C | C17H21N3O3
